US06353111B1
A solution of triphenylphosphine (467 mg, 1.78 mmol) in methylene chloride (8 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (317 mg, 1.78 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution (E)-3-cyclopentyl-2-[3-bromo-4-(methanesulfonyl)-phenyl]-acrylic acid (334 mg, 0.89 mmol) in methylene chloride (4 mL). The reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (713 mg, 7.12 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (40 mL) and a 1N aqueous hydrochloric acid solution (50 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×25 mL). The combined organic extracts were successively washed with a 1N aqueous hydrochloric acid solution (1×50 mL), a saturated aqueous sodium bicarbonate solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotaoe chromatography (FLASH 40S, Silica, 3/1 hexanes/ethyl acetate) afforded the pure (E)-2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-acrylamide (71 mg, 17.5%) as an amorphous white solid: EI-HRMS m/e calcd for C18H19BrN2O3S2 (M+) 454.0020, found 454.0025.

reactant | triphenylphosphine | 1.78 mmol, 467 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.78 mmol, 317 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cyclopentyl-2-[3-bromo-4-(methanesulfonyl)-phenyl]-acrylic acid | 0.89 mmol, 334 mg | C1(CCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)S(=O)(=O)C)Br | C15H17BrO4S
reactant | 2-aminothiazole | 7.12 mmol, 713 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-thiazol-2-yl-acrylamide | 71 mg, 17.5% | BrC=1C=C(C=CC1S(=O)(=O)C)/C(/C(=O)NC=1SC=CN1)=C\C1CCCC1 | C18H19BrN2O3S2
